US06362177B1
To a solution of 4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (20.0 mg, 0.058 mmol) and 3-hydroxy-4-methoxybenzaldehyde (33 mg) in 5% CH3COOH/CH3OH (1.0 mL) was added NaBH3CN (16.5 mg) in 5% CH3COOH/CH3OH (1.0 mL). The reaction mixture was stirred at 60° C. for 15 h. The reaction mixture was loaded onto Variant™ SCX column and washed with CH3OH (15 mL). Product was eluted using 2 N NH3-CH3OH (5 mL) and the eluant was concentrated to afford 1-(3-hydroxy-4-methoxybenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (Compound No. 1452) (25.8 mg, 92%): The purity was determined by RPLC/MS (91%); ESI/MSm/e 480 (M++H, C24H28F3N3O4).

reactant | 4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | 0.058 mmol, 20.0 mg | FC(C=1C=C(C(=O)NCC(=O)NCC2CCNCC2)C=CC1)(F)F | C16H20F3N3O2
reactant | 3-hydroxy-4-methoxybenzaldehyde | 33 mg | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | NaBH3CN | 16.5 mg | [BH3-]C#N.[Na+]
solvent | CH3COOH CH3OH | 1.0 mL | CC(=O)O.CO
solvent | CH3COOH CH3OH | 1.0 mL | CC(=O)O.CO
product | 1-(3-hydroxy-4-methoxybenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | OC=1C=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=CC1OC | C24H28F3N3O4
